US07582772B2
A warm (40-45° C.) solution of N-Boc-N-but-3-ynyl-(2,6-dimethylphenyl)-methanesulfonamide (44.4 g, 0.106 mol), dichlorobis(triphenylphosphine)palladium (II) (0.50 g, 0.713 mmol), and DMF (125 mL) was added slowly over 7 h to a warm (55° C.), stirred mixture of benzhydryl-(4-chloro-2-iodo-phenyl)-amine (50 g, 0.119 mol), dichlorobis(triphenylphosphine)palladium (II) (0.50 g, 0.713 mmol), copper (I) iodide (3.0 g, 15.7 mmol), triethylamine, (42.2 g, 0.418 mol), and DMF (75 mL). Toluene (250 mL) and water (250 mL) were added to the reaction mixture. The aqueous phase was separated and washed with toluene (2×100 mL). The combined organic phases were filtered through a celite pad. The filtrate was washed with an 8.3% aqueous solution of N-acetylcysteine (2×150 mL), then again with water (150 mL). The organic phase was washed with 5% aqueous sodium bicarbonate (150 mL), then again with water (150 mL). The organic phase was concentrated to a heavy oil under reduced pressure. The oil was dissolved in N,N-dimethylacetamide (DMA, 175 mL). This DMA solution was added over 1 hour to a stirred mixture of copper iodide (2.26 g, 11.8 mmol) and DMA at 150° C. The reaction mixture was stirred at 150° C. for an additional 2.25 hours. The reaction mixture was cooled to room temperature and filtered through a celite pad with a DMA wash (2×25 mL). 2-Propanol (400 mL) was added to the warmed (45-40° C.), stirred filtrate. Then water (600 mL) was added to the stirred, warm (45-50° C.) mixture over 1 hour. The mixture was cooled to room temperature and stirred for a minimum of 12 hours. The solid was collected by filtration and washed with 2-propanol (2×50 mL). The solid was vacuum dried at 50° C. to give N-[2-(1-benzhydryl-5-chloro-1H-indol-2-yl)-ethyl]-C-(2,6-dimethylphenyl)-methanesulfonamide (60.6 g, 94%) with 98% purity (as determined by HPLC).

reactant | N-Boc-N-but-3-ynyl-(2,6-dimethylphenyl)-methanesulfonamide | 0.106 mol, 44.4 g | C(=O)(OC(C)(C)C)N(S(=O)(=O)CC1=C(C=CC=C1C)C)CCC#C | C18H25NO4S
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
reactant | benzhydryl-(4-chloro-2-iodo-phenyl)-amine | 0.119 mol, 50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=C(C=C1)Cl)I | C19H15ClIN
reactant | triethylamine | 0.418 mol, 42.2 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 75 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.713 mmol, 0.50 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | dichlorobis(triphenylphosphine)palladium | 0.713 mmol, 0.50 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 15.7 mmol, 3.0 g | [Cu]I
catalyst | copper iodide | 11.8 mmol, 2.26 g | [Cu](I)I
solvent | DMA | CN(C(C)=O)C | C4H9NO
solvent | water | 250 mL | O | H2O
solvent | Toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-(1-benzhydryl-5-chloro-1H-indol-2-yl)-ethyl]-C-(2,6-dimethylphenyl)-methanesulfonamide | 60.6 g, 94% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Cl)CCNS(=O)(=O)CC1=C(C=CC=C1C)C | C32H31ClN2O2S
